US07361682B2
b) Step 2: 6-Benzyloxy-5-fluoro-1H-indole-2-carboxylic acid methyl ester
A mixture of methyl 2-azidoacetate, 4-benzyloxy-3-fluoro-benzaldehyde and sodium methanolate (in methanol) in toluene was reacted for 3 h at 0° C. The residue after filtration of the suspension was washed with methanol, partitioned between ethyl acetate and ammonium chloride solution and extracted with ethyl acetate. The combined organic layers were dried with Na2SO4, evaporated to dryness and the residue taken up in p-xylene and brought to reflux temperature for 2 h. After concentration the mixture was left to crystallize and the formed crystals were filtered off and washed with toluene. The title compound was after drying at 40° C. under vacuum obtained as yellow crystals. MS (m/e): 300.3 (MH+, 100%).

reactant | methyl 2-azidoacetate | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
reactant | 4-benzyloxy-3-fluoro-benzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)F | C14H11FO2
reactant | sodium methanolate | C[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Benzyloxy-5-fluoro-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC(=C(C=C2C1)F)OCC1=CC=CC=C1 | C17H14FNO3
